US06057006
48.6 g of magnesium turnings were wetted with 50 ml of THF, and a solution of 350 g of 1-bromo-3-fluorobenzene in 700 ml of THF was then added dropwise with stirring at such a rate that the reaction boiled gently. The mixture was then refluxed for a further 30 minutes and cooled to 10° C., and a solution of 312.4 g of cyclohexanedione monoethylene ketal and 600 ml of THF was added dropwise with stirring. During this addition, the reaction temperature rose to 60° C. The mixture was refluxed for a further 30 minutes and then cooled to room temperature. 800 ml of ammonium chloride solution were then added, and the mixture was neutralized using hydrochloric acid. The organic phase was separated off, and the aqueous phase was extracted once with 300 ml of methyl tert-butyl ether. The combined organic extracts were then washed once with 200 ml of sodium chloride solution, dried using sodium sulfate, filtered and evaporated to a residue, giving 8-(3-fluorophenyl)-1,4-dioxaspiro[4.5]decan-8-ol.

reactant | magnesium | 48.6 g | [Mg] | Mg
reactant | 1-bromo-3-fluorobenzene | 350 g | BrC1=CC(=CC=C1)F | C6H4BrF
reactant | cyclohexanedione monoethylene ketal | 312.4 g | C1COC2(C(CCCC2)=O)O1 | C8H12O3
reactant | ammonium chloride | 800 ml | [Cl-].[NH4+]
reactant | hydrochloric acid | Cl | ClH
reactant | THF | 700 ml | C1CCOC1 | C4H8O
reactant | THF | 600 ml | C1CCOC1 | C4H8O
reactant | THF | 50 ml | C1CCOC1 | C4H8O
product | 8-(3-fluorophenyl)-1,4-dioxaspiro[4.5]decan-8-ol | FC=1C=C(C=CC1)C1(CCC2(OCCO2)CC1)O | C14H17FO3
